US06878714B2
Step A Preparation of 2-bromo-1-tert-butyl-4-nitrobenzene
NBS (125.0 g, 697.5 mmol) was slowly added to a solution of TFA:H2SO4 (5:1, 750 mL) and tert-butyl-4-nitrobenzene (100.0 g, 558.0 mmol) at RT. The solution was stirred for 24 h then poured over 5 kg of ice. The resulting suspension was filtered and washed with a 1:1 MeOH:H2O solution (200 mL) and dried in a vacuum oven. MS (ES+): 258.1, 260.1 (M+H)+. Calc'd for C10H12BrNO2: 257.01.

reactant | NBS | 697.5 mmol, 125.0 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | tert-butyl-4-nitrobenzene | 558.0 mmol, 100.0 g | C(C)(C)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H13NO2
solvent | TFA H2SO4 | 750 mL | C(=O)(C(F)(F)F)O.OS(=O)(=O)O
product | 2-bromo-1-tert-butyl-4-nitrobenzene | BrC1=C(C=CC(=C1)[N+](=O)[O-])C(C)(C)C | C10H12BrNO2
